US07851473B2
(3) tert-Butyl 4-(5-methyl-4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxylate
A solution of 2-bromo-5-methyl-4-phenyl-1,3-thiazole (9.56 g, 37.6 mmol), tert-butyl piperazine-1-carboxylate (14.8 g, 75.2 mmol) and potassium carbonate (5.20 g, 37.6 mmol) in dimethylformamide (125 ml) was stirred at 120° C. for 4 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 2.45 g (18.1%) of the desired product as a solid.

reactant | 2-bromo-5-methyl-4-phenyl-1,3-thiazole | 37.6 mmol, 9.56 g | BrC=1SC(=C(N1)C1=CC=CC=C1)C | C10H8BrNS
reactant | tert-butyl piperazine-1-carboxylate | 75.2 mmol, 14.8 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 37.6 mmol, 5.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(5-methyl-4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | 2.45 g, 18.1% | CC1=C(N=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C19H25N3O2S
